US04052511
Monoethyl methylmalonate (1.46 g.) and N-hydroxysuccinimide (1.15 g.) are dissolved in ethyl acetate and the solution chilled with stirring in an ice bath. Dicyclohexylcarbodiimide (2.06 g.) is added and the mixture is stirred 15 minutes in an ice bath and overnight at room temperature. The precipitate is filtered off and the filtrate is concentrated to dryness. The residue is dissolved in pyridine (15 ml.) and added to a mixture of L-4-hydroxyproline (3.30 g.), sodium bicarbonate (2.5 g.) and water (15 ml.). After stirring for 18 hours at room temperature, water (60 ml.) is added and the solution is extracted with ethyl acetate. The aqueous phase is acidified (pH 2) and extracted with ethyl acetate. The ethyl acetate layer is dried over magnesium sulfate and concentrated to dryness to obtain 1-(2-ethoxycarbonylpropanoyl)-L-hydroxyproline.

reactant | Monoethyl methylmalonate | 1.46 g | CC(C(=O)OCC)C(=O)[O-]
reactant | N-hydroxysuccinimide | 1.15 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | Dicyclohexylcarbodiimide | 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-ethoxycarbonylpropanoyl)-L-hydroxyproline | C(C)OC(=O)C(C(=O)N1[C@H](C(=O)O)C[C@@H](O)C1)C | C11H17NO6
